US07338959B2
N2-Cyclohexyl-N5-{2-[3-(2-methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-Chloro-pyrimidin-4-yl)-N2-cyclohexyl-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (74 mg, 0.20 mmol) and 3-(2-methanesulfonyl-ethyl)-phenylamine (47 mg, 0.20 mmol) as a white solid (59 mg, 52%). 1H NMR (300 MHz, D6-DMSO) δ 9.07 (s, 1H), 7.76-7.78 (m, 2H), 7.60 (d, J=8.4 Hz, 1H), 7.13-7.20 (m, 2H), 7.09 (d, J=1.8 Hz, 1H), 6.79-6.82 (m, 2H), 6.47 (d, J=7.8 Hz, 1H), 5.61 (d, J=6.0 Hz, 1H), 3.70 (m, 1H), 3.51 (s, 3H), 3.44 (s, 3H), 3.35-3.40 (m, 2H), 2.97 (s, 3H), 2.91-2.95 (m, 2H), 2.01 (m, 2H), 1.74 (M, 2H), 1.63 (m, 1H), 1.16-1.31 (m, 5H) ppm. MS (ESI) m/z=534 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-N2-cyclohexyl-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 74 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC2CCCCC2)C)C=C1)C | C19H23ClN6
reactant | 3-(2-methanesulfonyl-ethyl)-phenylamine | 0.20 mmol, 47 mg | CS(=O)(=O)CCC=1C=C(C=CC1)N | C9H13NO2S
product | N2-Cyclohexyl-N5-{2-[3-(2-methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.C1(CCCCC1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC(=CC=C2)CCS(=O)(=O)C | InChI=1S/C28H35N7O2S.ClH/c1-34(23-12-13-25-24(19-23)32-28(35(25)2)31-21-9-5-4-6-10-21)26-14-16-29-27(33-26)30-22-11-7-8-20(18-22)15-17-38(3,36)37;/h7-8,11-14,16,18-19,21H,4-6,9-10,15,17H2,1-3H3,(H,31,32)(H,29,30,33);1H
